US07507730B2
Alternatively, the Bignelli reaction was carried out in two steps with higher yields. To 1-(pyrrolidin-1-ylsulfonyl)propan-2-one in THF was added an equivalent amount of 3,4-dichlorobenzaldehyde and a catalytic amount of titanium tetraisopropoxide. The reaction was stirred at 80° C. overnight. Solvent was removed and the residue was purified by silica flash chromatography (0% to 15% ethyl acetate-hexanes) to provide 4-(3,4-dichlorophenyl)-3-(pyrrolidin-1-ylsulfonyl)but-3-en-2-one. The product obtained was dissolved in 1,4-dioxane and one equivalent of 3-methyl-1H-pyrazol-5-amine was added. The reaction was stirred at 80° C. for 24-48 hrs. Solvent was removed and product was obtained after flash chromatography (silica gel, 0% to 40% ethyl acetate-hexanes).

reactant | 1-(pyrrolidin-1-ylsulfonyl)propan-2-one | N1(CCCC1)S(=O)(=O)CC(C)=O | C7H13NO3S
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | titanium tetraisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 4-(3,4-dichlorophenyl)-3-(pyrrolidin-1-ylsulfonyl)but-3-en-2-one | ClC=1C=C(C=CC1Cl)C=C(C(C)=O)S(=O)(=O)N1CCCC1 | C14H15Cl2NO3S
